US07737149B2
4-(4-Acetylpiperazin-1-yl)-N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-1H-pyrazol-3-yl]benzamide
4-(4-acetylpiperazin-1-yl)-N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]benzamide was prepared as for Example 94, but starting from methyl 4-(4-acetylpiperazin-1-yl)benzoate (221 mg, 0.84 mmol ), tert-butyl 5-amino-3-[2-(3,5-dimethoxyphenyl)ethyl]-1H-pyrazole-1-carboxylate (244 mg, 0.7 mmol) and 1M NaHMDS (1.13 ml, 1.13 mmol) in THF (5 ml). The crude product was purified by reverse phase prep. HPLC (basic) using a 31-51% gradient of acetonitrile in water, containing 1% 0.880 ammonia. The clean fractions were taken and evaporated to afford the title compound as a white solid (3 mg, 1.0%); 1H NMR (399.9 MHz, DMSO-d6) δ 2.06 (3H, s), 2.78 (4H, s), 3.28 (2H,s) 3.25 (2H, t), 3.49-3.56(4H, m), 3.73 (6H, s), 6.33 (1H, t), 6.42 (2H, d), 6.45 (1H, s), 6.99 (2H, d), 7.92 (2H, d), 10.32 (1H, s), 12.08 (1H, s).

reactant | methyl 4-(4-acetylpiperazin-1-yl)benzoate | 0.84 mmol, 221 mg | C(C)(=O)N1CCN(CC1)C1=CC=C(C(=O)OC)C=C1 | C14H18N2O3
reactant | tert-butyl 5-amino-3-[2-(3,5-dimethoxyphenyl)ethyl]-1H-pyrazole-1-carboxylate | 0.7 mmol, 244 mg | NC1=CC(=NN1C(=O)OC(C)(C)C)CCC1=CC(=CC(=C1)OC)OC | C18H25N3O4
reactant | NaHMDS | 1.13 mmol, 1M, 1.13 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 4-(4-Acetylpiperazin-1-yl)-N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-1H-pyrazol-3-yl]benzamide | 3 mg, 1.0% | C(C)(=O)N1CCN(CC1)C1=CC=C(C(=O)NC2=NNC(=C2)CCC2=CC(=CC(=C2)OC)OC)C=C1 | C26H31N5O4
